US04950467
Into a one liter round bottom flask equipped with a stirrer, condenser, thermometer and heating mantle, 198 grams (1.5 mols) of cinnamaldehyde, 230 grams (2.25 mols) of acetic anhydride, 25 grams (0.25 mols) potassium acetate, and 49 grams (0.60 mols) of sodium acetate were charged. The contents were brought up to 145° C. and maintained at 145°-150° C. for ninety minutes. Approximately 100 ml of acetic acid/acetic anhydride were stripped off leaving a red brown slurry. The resultant slurry was cooled to room temperature and the solids filtered off and rinsed with acetone. The dry filtercake (185 grams) was dissolved in two liters of 5% potassium carbonate solution at 65° C. Addition of 100 ml of 37.8% HCl to this solution yielded 5-phenyl-2,4-pentadienoic acid as a light yellow precipitate. The precipitate was filtered and dried. The dried acid was esterified with ethanol in the presence of sulfuric acid. The resultant ethyl 5-phenyl-2,4-pentadienoate was purified by vacuum distillation. The pure product was found to have a max of 309 nm, and an extinction coefficient of 35,500.

reactant | cinnamaldehyde | 1.5 mols, 198 grams | C(C=CC1=CC=CC=C1)=O | C9H8O
reactant | acetic anhydride | 2.25 mols, 230 grams | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium acetate | 0.25 mols, 25 grams | C(C)(=O)[O-].[K+]
reactant | sodium acetate | 0.60 mols, 49 grams | C(C)(=O)[O-].[Na+]
solvent | acetic acid acetic anhydride | 100 ml | C(C)(=O)O.C(C)(=O)OC(C)=O
product | 5-phenyl-2,4-pentadienoic acid | C1(=CC=CC=C1)C=CC=CC(=O)O | C11H10O2
